US04391805
4-(4-Acetylpiperazin-1-ylmethyl)-phenol
A mixture of 22.4 g=0.2 mole of p-hydroxybenzaldehyde, 25.6 g=0.2 mole of acetylpiperazine, 200 ml of methanol, 10 g of Raney nickel and 0.1 ml of concentrated sulfuric acid is stirred for 4 hours in an autoclave at 80° C. and under a hydrogen pressure of 100 atmospheres. After cooling, and releasing the pressure, the catalyst is filtered off, the solvent is removed in vacuo on a rotary evaporator, the residue is taken up in methylene chloride, the mixture is washed with 2 N sodium carbonate solution, the organic phase is dried with sodium sulfate, the solvent is removed as above and the residue is recrystallized from a mixture of ethyl acetate and diisopropyl ether. This gives 33.4 g (71% of theory), melting point: 130°-132° C.

reactant | p-hydroxybenzaldehyde | 0.2 mole | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetylpiperazine | 0.2 mole | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | sulfuric acid | 0.1 ml | S(O)(O)(=O)=O | H2O4S
catalyst | Raney nickel | 10 g | [Ni] | Ni
solvent | methanol | 200 ml | CO | CH4O
product | 4-(4-Acetylpiperazin-1-ylmethyl)-phenol | C(C)(=O)N1CCN(CC1)CC1=CC=C(C=C1)O | C13H18N2O2
